US06677364B2
A solution of 3-[tetrahydro-(4-methoxy)pyran-4-yl]benzyl alcohol (prepared as described in U.S. Pat. No. 5,424,320) (0.07 g, 0.3 mmol) in 2 mL of anhydrous DMA was added to a suspension of sodium hydride (7.2 mg, 0.3 mmol) in 2 m of anhydrous DMA at 5° C., and the reaction mixture was stirred for 20 minutes at 5° C. A solution of 4-[(2-chloro)-4-phenyloxazol-5-yl]benzenesulfonamide in 2 mL of anhydrous DMA was then added. The reaction mixture was stirred for 2 h at 5° C. and for 5 h at room temperature. The reaction mixture was quenched with water (50 mL). The aqueous solution was extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with saturated brine (1×100 mL), dried over magnesium sulfate, filtered and concentrated. The concentrated residue was purified by flash column chromatography on silica gel, eluting with 40% ethyl acetate in hexane, to give 0.1 g (64%) of 4-[2-[3-(3,4,5,6-tetrahydro-4-methoxypyran-4-yl)phenyl]methoxy]-4-phenyloxazol-5-yl]-benzenesulfonamide as a white solid: 1H NMR (CDCl3/300 MHz) δ 1.95-2.06 (m, 4H), 2.98 (s, 3H), 3.81-3.88 (m, 4H), 4.81 (s, 2H), 5.53 (s, 2H), 7.39-7.46 (m, 6H), 7.55-7.67 (m, 5H), 7.84 ( d, 2H, J=8.70 Hz). HRMS calcd for C28H28N2O6S 521.1746. Found 521.1701.

reactant | 3-[tetrahydro-(4-methoxy)pyran-4-yl]benzyl alcohol | COC1(CCOCC1)C=1C=C(CO)C=CC1 | C13H18O3
reactant | sodium hydride | 0.3 mmol, 7.2 mg | [H-].[Na+]
reactant | 4-[(2-chloro)-4-phenyloxazol-5-yl]benzenesulfonamide | ClC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N | C15H11ClN2O3S
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
